US06566554B1
N-[2-[3-Chloro-4-(2-methylbenzoyl)-phenylamino]phenyl]-succinamic Acid (Compound 101)
A stirred solution of 4-(2-aminophenylamino)-2-chloro-2′-methylbenzophenone (3.0 mmol) in glacial acetic acid (5.0 ml) was heated to 70° C., then succinic anhydride (4.0 mmol) was added. The temperature was held at 100° C. for 20 min after which the reaction mixture was concentrated in vacuo to afford a light brown syrupy, which crystallised on standing. Trituration with a mixture of Et2O/CH2Cl2 3:1 followed by filtration and washing yielded the product as white crystals.

reactant | 4-(2-aminophenylamino)-2-chloro-2′-methylbenzophenone | 3.0 mmol | NC1=C(C=CC=C1)NC1=CC(=C(C(=O)C2=C(C=CC=C2)C)C=C1)Cl | C20H17ClN2O
reactant | succinic anhydride | 4.0 mmol | C1(CCC(=O)O1)=O | C4H4O3
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | N-[2-[3-Chloro-4-(2-methylbenzoyl)-phenylamino]phenyl]-succinamic Acid | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(CCC(=O)O)=O | C24H21ClN2O4
